US05821372
1-Butyl-3-(2-chloro-6-methylphenyl)-2-thioxo-imidazolidin-4-one
The title compound was prepared by the procedure described in Example 11 using 6.5 g of 2-chloro-6-methylphenyl-isothiocyanate, 8.5 g of N-butyl glycine, 10.0 g of triethyl amine, and 150 mL of methylene chloride. Purification was achieved by flash chromatography on silica gel (methylene chloride). Crystallization from ethanol afforded the title compound (3.85 g) as a light pink solid, m.p. 97°-100° C. Anal. Calcd. for. C14H17Cl N2O S : C, 56.65; H, 5.77; N, 9.44. Found: C, 56.45; H, 5.67; N, 9.33. Mass spectrum (+FAB, [M+H]+) m/z 297.

reactant | 2-chloro-6-methylphenyl-isothiocyanate | 6.5 g | ClC1=C(C(=CC=C1)C)N=C=S | C8H6ClNS
reactant | N-butyl glycine | 8.5 g | C(CCC)NCC(=O)O | C6H13NO2
reactant | triethyl amine | 10.0 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 150 mL | C(Cl)Cl | CH2Cl2
product | 1-Butyl-3-(2-chloro-6-methylphenyl)-2-thioxo-imidazolidin-4-one | 3.85 g | C(CCC)N1C(N(C(C1)=O)C1=C(C=CC=C1C)Cl)=S | C14H17ClN2OS
